US08198388B2
Ethyl 2-[4-hydroxy-2-oxabutyl]acrylate (1)
To a solution of 32.52 g trifluoromethanesulphonic anhydride in 100 ml dichloromethane a solution of 15 g (0.115 mol) α-hydroxyethylacrylate and 11.66 g (0.115 mol) triethylamine in 200 ml dichloromethane was added slowly, so that the temperature of the reaction mixture stays below 5° C. The solution was added drop wise at room temperature to 210 g (1.127 mol) 1,2-ethandiol. After the reaction mixture was stirred for 12 h at room temperature the solution was successively washed with 1×200 ml water, 2×250 ml of an aqueous sodium carbonate solution (25 wt %) and 1×200 ml water. The organic layer was dried over magnesium sulphate and filtered. After the evaporation of the solvent the oily raw product was stabilized with 15 mg BHT and purified by vacuum distillation (63° C./0.032 mbar). This afforded 10.12 g (yield: 50%) of a clear, colorless oil.

reactant | trifluoromethanesulphonic anhydride | 32.52 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | α-hydroxyethylacrylate | 0.115 mol, 15 g | OC(C)OC(C=C)=O | C5H8O3
reactant | triethylamine | 0.115 mol, 11.66 g | C(C)N(CC)CC | C6H15N
reactant | 1,2-ethandiol | 1.127 mol | C(CO)O | C2H6O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | Ethyl 2-[4-hydroxy-2-oxabutyl]acrylate | yield: 50% | OCCOCC(C(=O)OCC)=C | C8H14O4
